* /home/nalinnet36/snk/sri/sri.cir

.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
xsc2 net-_sc1-pad1_ vin1 gnd gnd sky130_fd_pr__nfet_01v8 
xsc1 net-_sc1-pad1_ vin1 net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8 
xsc5 buf_out1 net-_sc1-pad1_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8 
xsc6 buf_out1 net-_sc1-pad1_ gnd gnd sky130_fd_pr__nfet_01v8 
v1  vin1 gnd sine(0 5 0.5 0 0)
v7  mux3 gnd pulse(0 5 0 0 0 4 8)
* s c m o d e
v3 net-_sc1-pad3_ gnd  dc 1.8
* u1  vin1 plot_v1
* u3  buf_out1 plot_v1
xsc4 net-_sc3-pad1_ vin2 gnd gnd sky130_fd_pr__nfet_01v8 
xsc3 net-_sc3-pad1_ vin2 net-_sc3-pad3_ net-_sc3-pad3_ sky130_fd_pr__pfet_01v8 
xsc7 buf_out2 net-_sc3-pad1_ net-_sc3-pad3_ net-_sc3-pad3_ sky130_fd_pr__pfet_01v8 
xsc8 buf_out2 net-_sc3-pad1_ gnd gnd sky130_fd_pr__nfet_01v8 
v2  vin2 gnd sine(0 5 1 0 0)
v4 net-_sc3-pad3_ gnd  dc 1.8
* u2  vin2 plot_v1
* u4  buf_out2 plot_v1
* u5  s_d c_b net-_u5-pad3_ net-_u5-pad4_ net-_u5-pad5_ net-_u5-pad6_ net-_u13-pad1_ srimux
* u7  net-_u7-pad1_ out dac_bridge_1
* u8  out plot_v1
* u9  net-_u10-pad2_ net-_u13-pad1_ net-_u7-pad1_ sri_and
* u10  f1 net-_u10-pad2_ adc_bridge_1
v5  has1 gnd pulse(0 5 0 0 0 1 2)
v6  has2 gnd pulse(0 5 0.2 0 0 2 4)
v8  has3 gnd pulse(0 5 0 0 0 5 10)
* u11  net-_u11-pad1_ net-_u11-pad2_ net-_u11-pad3_ s_d c_b sri_add_sub
* u12  has1 has2 has3 net-_u11-pad1_ net-_u11-pad2_ net-_u11-pad3_ adc_bridge_3
* u6  mux3 mux3 buf_out1 buf_out2 net-_u5-pad3_ net-_u5-pad4_ net-_u5-pad5_ net-_u5-pad6_ adc_bridge_4
v9  f1 gnd sine(0 5 2 0 0)
* u14  mux_out plot_v1
* u13  net-_u13-pad1_ mux_out dac_bridge_1
* u15  s_d c_b o_s_d o_c_b dac_bridge_2
* u17  o_s_d plot_v1
* u16  o_c_b plot_v1
a1 [s_d c_b net-_u5-pad3_ net-_u5-pad4_ ] [net-_u5-pad5_ net-_u5-pad6_ ] [net-_u13-pad1_ ] u5
a2 [net-_u7-pad1_ ] [out ] u7
a3 [net-_u10-pad2_ ] [net-_u13-pad1_ ] [net-_u7-pad1_ ] u9
a4 [f1 ] [net-_u10-pad2_ ] u10
a5 [net-_u11-pad1_ ] [net-_u11-pad2_ ] [net-_u11-pad3_ ] [s_d ] [c_b ] u11
a6 [has1 has2 has3 ] [net-_u11-pad1_ net-_u11-pad2_ net-_u11-pad3_ ] u12
a7 [mux3 mux3 buf_out1 buf_out2 ] [net-_u5-pad3_ net-_u5-pad4_ net-_u5-pad5_ net-_u5-pad6_ ] u6
a8 [net-_u13-pad1_ ] [mux_out ] u13
a9 [s_d c_b ] [o_s_d o_c_b ] u15
* Schematic Name:                             srimux, NgSpice Name: srimux
.model u5 srimux(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u7 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             sri_and, NgSpice Name: sri_and
.model u9 sri_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u10 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             sri_add_sub, NgSpice Name: sri_add_sub
.model u11 sri_add_sub(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_3, NgSpice Name: adc_bridge
.model u12 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_4, NgSpice Name: adc_bridge
.model u6 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u13 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u15 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0.001e-00 10e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt

plot v(vin1) v(vin2)+11 v(buf_out1)+22 v(buf_out2)+30
plot v(buf_out1) v(buf_out2)+6 v(o_s_d)+12 v(o_c_b)+18 v(mux3)+24 v(mux_out)+30
plot v(has1) v(has2)+6 v(has3)+12 v(o_s_d)+18 v(o_c_b)+24
plot v(mux_out) v(f1)+12 v(out)+20
.endc
.end
